US05814634
To 1-isobutylpiperazine dihydrochloride(69.5 g) was added 10% aqueous solution of sodium hydrochloride(100 ml) and the mixture was extracted with ether. After being concentrated, the extract was distilled under a vacuum(bp 172°-174° C./5 mmHg), thereby yielding 43.7 g of 1-isobutylpiperazine.

reactant | 1-isobutylpiperazine dihydrochloride | 69.5 g | Cl.Cl.C(C(C)C)N1CCNCC1
solvent | sodium hydrochloride | 100 ml | Cl.[Na]
product | 1-isobutylpiperazine | 43.7 g | C(C(C)C)N1CCNCC1 | C8H18N2
